US08981085B2
4-Fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (3.0 g, 10.258 mmol) was placed in THF (15 mL) at −78° C. s-BuLi (16.12 mL, 22.57 mmol) was then added dropwise and stirred for 30 minutes. Hexachloroethane (6.07 g, 25.6 mmol) in THF (10 mL) was then added rapidly, and the reaction was stirred for an additional 30 minutes. The reaction was quenched with saturated aqueous NH4Cl and extracted into hexanes. The combined organic fractions were dried, filtered and concentrated to give the crude product that was purified by column chromatography (hexanes) to give 5-chloro-4-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (2.1 g, 62% yield).

reactant | 4-Fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 10.258 mmol, 3.0 g | FC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25FN2Si
reactant | s-BuLi | 22.57 mmol, 16.12 mL | [Li]C(C)CC
reactant | Hexachloroethane | 25.6 mmol, 6.07 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-chloro-4-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 2.1 g, 62% yield | ClC=1C(=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)F | C16H24ClFN2Si
